US09126940B2
Step B: Preparation of tert-butyl 4-(((benzyloxycarbonyl)(propyl)amino)methyl)piperidine-1-carboxylate
tert-Butyl 4-((benzyloxycarbonylamino)methyl)piperidine-1-carboxylate (0.950 g, 2.726 mmol) was dissolved in dry DMF (25 mls). To this was added sodium hydride (0.164 g, 4.090 mmole, 60% dispersion in mineral oil) and the reaction mixture was stirred at room temperature for 30 minutes. Propyl iodide (0.695 g, 4.090 mmole) was then added and the mixture stirred at room temperature for 16 hours, then diluted with brine (200 mls), extracted twice with EtOAc, extracts washed twice with brine, dried over sodium sulfate and concentrated under reduced pressure. The resulting oil was purified by flash chromatography (100 g Biotage Snap cartridge, 30% EtOAc/Hexanes) to give 0.280 g (26%) of the title compound.

reactant | tert-Butyl 4-((benzyloxycarbonylamino)methyl)piperidine-1-carboxylate | 2.726 mmol, 0.950 g | C(C1=CC=CC=C1)OC(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O4
reactant | sodium hydride | 4.090 mmole, 0.164 g | [H-].[Na+]
reactant | Propyl iodide | 4.090 mmole, 0.695 g | C(CC)I | C3H7I
solvent | DMF | 25 mls | CN(C)C=O | C3H7NO
solvent | brine | 200 mls | [Cl-].[Na+].O
product | tert-butyl 4-(((benzyloxycarbonyl)(propyl)amino)methyl)piperidine-1-carboxylate | 0.280 g, 26% | C(C1=CC=CC=C1)OC(=O)N(CCC)CC1CCN(CC1)C(=O)OC(C)(C)C | C22H34N2O4
